US09387204B2
Step 4: 4-(3-phenylimidazo[1,2-a]pyrimidin-2-yl)benzaldehyde
4.6 g 4-[bromo(phenyl)acetyl]benzaldehyde and 1.64 g pyrimidin-2-amine are stirred in 140 ml DMF at 90° C. for 4 h. The DMF is evaporated and the residue suspended in ethylacetate over night, collected by filtration.

reactant | 4-[bromo(phenyl)acetyl]benzaldehyde | 4.6 g | BrC(C(=O)C1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C15H11BrO2
reactant | pyrimidin-2-amine | 1.64 g | N1=C(N=CC=C1)N | C4H5N3
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
product | 4-(3-phenylimidazo[1,2-a]pyrimidin-2-yl)benzaldehyde | C1(=CC=CC=C1)C1=C(N=C2N1C=CC=N2)C2=CC=C(C=O)C=C2 | C19H13N3O
